Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[CH2:1][c:2]1[cH:3][cH:4][c:5]([N+:6](=[O:7])[O-:8])[cH:9][cH:10]1.[CH3:11][O:12][c:13]1[cH:14][cH:15][c:16]([CH2:17][N:18]2[CH2:19][CH2:20][N:21]([c:22]3[cH:23][c:24]([Cl:25])[cH:26][c:27]([Cl:28])[cH:29]3)[CH2:30][CH:31]2[CH2:32][OH:33])[cH:34][c:35]1[O:36][CH3:37]>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([N+:6](=[O:7])[O-:8])[cH:9][cH:10]1)[O:33][CH2:32][CH:31]1[N:18]([CH2:17][c:16]2[cH:15][cH:14][c:13]([O:12][CH3:11])[c:35]([O:36][CH3:37])[cH:34]2)[CH2:19][CH2:20][N:21]([c:22]2[cH:23][c:24]([Cl:25])[cH:26][c:27]([Cl:28])[cH:29]2)[CH2:30]1,[CH3:11][O:12][c:13]1[cH:14][cH:15][c:16]([CH2:17][N:18]2[CH2:19][CH2:20][N:21]([c:22]3[cH:23][c:24]([Cl:25])[cH:26][c:27]([Cl:28])[cH:29]3)[CH2:30][CH:31]2[CH2:32][OH:33])[cH:34][c:35]1[O:36][CH3:37].[Cl:101][CH2:1][c:2]1[cH:3][cH:4][c:5]([N+:6](=[O:7])[OH:8])[cH:9][cH:10]1.[H-:301].[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([N+:6](=[O:7])[OH:8])[cH:9][cH:10]1)[O:33][CH2:32][CH:31]1[N:18]([CH2:17][c:16]2[cH:15][cH:14][c:13]([O:12][CH3:11])[c:35]([O:36][CH3:37])[cH:34]2)[CH2:19][CH2:20][N:21]([c:22]2[cH:23][c:24]([Cl:25])[cH:26][c:27]([Cl:28])[cH:29]2)[CH2:30]1,SN2_alcohol(thiol),"[(301, 33.1), ([33.1, 33], 33), (33, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[cH:3][cH:4][c:5]2[n:6][cH:7][n:8](-[c:9]3[s:10][c:11]([C:12]([O:13][CH3:14])=[O:15])[c:16]([O:17][C@H:18]([CH3:19])[c:20]4[cH:21][cH:22][cH:23][cH:24][c:25]4[C:26]([F:27])([F:28])[F:29])[cH:30]3)[c:31]2[cH:32]1.[CH3:33][N:34]1[CH2:39][CH2:38][NH:37][CH2:36][CH2:35]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]2[n:6][cH:7][n:8](-[c:9]3[s:10][c:11]([C:12]([O:13][CH3:14])=[O:15])[c:16]([O:17][C@H:18]([CH3:19])[c:20]4[cH:21][cH:22][cH:23][cH:24][c:25]4[C:26]([F:27])([F:28])[F:29])[cH:30]3)[c:31]2[cH:32]1)[N:37]1[CH2:36][CH2:35][N:34]([CH3:33])[CH2:39][CH2:38]1,[O:101]=[CH:1][c:2]1[cH:3][cH:4][c:5]2[n:6][cH:7][n:8](-[c:9]3[s:10][c:11]([C:12]([O:13][CH3:14])=[O:15])[c:16]([O:17][C@H:18]([CH3:19])[c:20]4[cH:21][cH:22][cH:23][cH:24][c:25]4[C:26]([F:27])([F:28])[F:29])[cH:30]3)[c:31]2[cH:32]1.[CH3:33][N:34]1[CH2:35][CH2:36][NH:37][CH2:38][CH2:39]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]2[n:6][cH:7][n:8](-[c:9]3[s:10][c:11]([C:12]([O:13][CH3:14])=[O:15])[c:16]([O:17][C@H:18]([CH3:19])[c:20]4[cH:21][cH:22][cH:23][cH:24][c:25]4[C:26]([F:27])([F:28])[F:29])[cH:30]3)[c:31]2[cH:32]1)[N:37]1[CH2:36][CH2:35][N:34]([CH3:33])[CH2:39][CH2:38]1,reductive_amination,"[(37, 1), ([1, 101], 301), (101, 37.1), ([37.1, 37], 37), (37, [37, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 37], 37)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[CH2:1][CH2:2][N:3]1[C:4](=[O:5])[CH2:6][CH2:7][CH2:8]1.[CH3:9][O:10][C:11](=[O:12])[CH2:13][C:14]1=[C:15]([C:16](=[O:17])[O:18][CH3:19])[CH:20]([c:21]2[c:22]([Cl:23])[cH:24][cH:25][cH:26][c:27]2[Cl:28])[C:29]([C:30](=[O:31])[O:32][CH3:33])=[C:34]([CH2:35][CH2:36][c:37]2[cH:38][cH:39][cH:40][cH:41][c:42]2[OH:43])[NH:44]1>>[CH2:1]([CH2:2][N:3]1[C:4](=[O:5])[CH2:6][CH2:7][CH2:8]1)[O:43][c:42]1[c:37]([CH2:36][CH2:35][C:34]2=[C:29]([C:30](=[O:31])[O:32][CH3:33])[CH:20]([c:21]3[c:22]([Cl:23])[cH:24][cH:25][cH:26][c:27]3[Cl:28])[C:15]([C:16](=[O:17])[O:18][CH3:19])=[C:14]([CH2:13][C:11]([O:10][CH3:9])=[O:12])[NH:44]2)[cH:38][cH:39][cH:40][cH:41]1,[CH3:9][O:10][C:11](=[O:12])[CH2:13][C:14]1=[C:15]([C:16](=[O:17])[O:18][CH3:19])[CH:20]([c:21]2[c:22]([Cl:23])[cH:24][cH:25][cH:26][c:27]2[Cl:28])[C:29]([C:30](=[O:31])[O:32][CH3:33])=[C:34]([CH2:35][CH2:36][c:37]2[cH:38][cH:39][cH:40][cH:41][c:42]2[OH:43])[NH:44]1.[OH:101][CH2:1][CH2:2][N:3]1[C:4](=[O:5])[CH2:6][CH2:7][CH2:8]1.c1ccccc1[P:301](c2ccccc2)c3ccccc3.[O:302]=[C:303]([N:304]=[N:305]C(=O)OCC)OCC>>[CH2:1]([CH2:2][N:3]1[C:4](=[O:5])[CH2:6][CH2:7][CH2:8]1)[O:43][c:42]1[c:37]([CH2:36][CH2:35][C:34]2=[C:29]([C:30](=[O:31])[O:32][CH3:33])[CH:20]([c:21]3[c:22]([Cl:23])[cH:24][cH:25][cH:26][c:27]3[Cl:28])[C:15]([C:16](=[O:17])[O:18][CH3:19])=[C:14]([CH2:13][C:11]([O:10][CH3:9])=[O:12])[NH:44]2)[cH:38][cH:39][cH:40][cH:41]1,Mitsunobu,"[(301, 305), ([305, 304], 304), (304, [304, 303]), ([303, 302], 302), (302, [302, 303]), ([303, 304], 43.1), ([43.1, 43], 43), (101, 301), ([301, 305], 305), (305, 101.1), ([101.1, 101], 101), (43, 1), ([1, 101], [101, 301])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
